US04376202
6.6 g (0.06 mol) of p-aminophenol in 4.0 g (0.06 mol) potassium hydroxide (purity 85%) and 80 ml of dimethylsulfoxide was heated under stirring. The water generated was distilled off under reduced pressure to obtain the potassium p-aminophenolate. To the solution, which was allowed to be cooled to room temperature, was added a solution of 10.9 g (0.06 mol) of 6-fluoro-2-chloroquinoxaline dissolved in 60 ml of dioxane. The mixture was reacted at 50°-60° C. for 3 hours. After the reaction was over, the reaction solution was poured onto ice and the separated solid was filtered off, and washed with 5% aqueous solution of sodium hydroxide and then washed with water. The substance thus obtained was recrystallized from ethanol to yield 8.2 g (yield 54%) of the intended compound (Compound No. 4) having a melting point of 174°-175.5° C. as light-yellow crystals.

reactant | p-aminophenol | 0.06 mol, 6.6 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | potassium hydroxide | 0.06 mol, 4.0 g | [OH-].[K+]
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | potassium p-aminophenolate | NC1=CC=C(C=C1)[O-].[K+] | InChI=1S/C6H7NO.K/c7-5-1-3-6(8)4-2-5;/h1-4,8H,7H2;/q;+1/p-1
